US08859591B2
To a 0° C. solution of methyl 6-((5-methyl-6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-ylimino)methyl)nicotinate (592 mg, 1.52 mmol) in anhydrous tetrahydrofuran (8 mL) was added isobutylmagnesium bromide (1.0 mL, 2.0M in THF, 2.0 mmol). The reaction mixture was allowed to warm to room temperature and stir for 3 hours. Saturated aqueous ammonium chloride (10 mL) was added and the mixture extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by preparative TLC gave methyl 6-(3-methyl-1-(5-methyl-6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-ylamino)butyl)nicotinate (250 mg). 1H NMR (400 MHz, CDCl3, δ): 9.18-9.17 (m, 1H), 8.26-8.23 (m, 1H), 8.16 (s, 1H), 7.81 (s, 1H), 7.69-7.68 (m, 1H), 7.40-7.38 (m, 1H), 6.79-6.78 (m, 1H), 4.65-4.58 (m, 1H), 4.00 (s, 3H), 2.27 (s, 3H), 1.78-1.66 (m, 3H), 1.02 (d, 3H), 0.96 (d, 3H).

reactant | methyl 6-((5-methyl-6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-ylimino)methyl)nicotinate | 1.52 mmol, 592 mg | CC=1C=C(C=NC1N1N=CC(=C1)C(F)(F)F)N=CC1=NC=C(C(=O)OC)C=C1 | C18H14F3N5O2
reactant | isobutylmagnesium bromide | 2.0 mmol, 2.0M, 1.0 mL | C(C(C)C)[Mg]Br
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | methyl 6-(3-methyl-1-(5-methyl-6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-ylamino)butyl)nicotinate | 250 mg | CC(CC(NC=1C=NC(=C(C1)C)N1N=CC(=C1)C(F)(F)F)C1=NC=C(C(=O)OC)C=C1)C | C22H24F3N5O2
